US04659718
A solution of phosgene (9.9 g) in toluene (100 ml) was added dropwise to a stirred solution of 2-amino-4-trifluoromethylbenzoic acid (6.9 g) and sodium carbonate (3.2 g) in water (100 ml) cooled in ice. Coolant was removed, the mixture was stirred for 2 hours, and the resulting solid was collected by filtration. The solid was dissolved in ethyl acetate and the solution was dried over anhydrous magnesium sulphate and then evaporated under reduced pressure. The resulting solid was crystallised from ethyl acetate to give the novel compound 7-trifluoromethyl-1H-3,1-benzoxazine-2,4-dione, m.p. 243°-245° (dec.)

reactant | phosgene | 9.9 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-4-trifluoromethylbenzoic acid | 6.9 g | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 7-trifluoromethyl-1H-3,1-benzoxazine-2,4-dione | FC(C1=CC2=C(C(OC(N2)=O)=O)C=C1)(F)F | C9H4F3NO3
